US06730788B1
2-((1-methyl-1-[(4R)-4-methyl-2-oxocyclohexyl]ethyl)-1,10-phenanthroline
The title compound is prepared by reacting in THF the tetrahydrophenanthroline, obtained as described by Example 24, with DDQ.

reactant | tetrahydrophenanthroline | N1CCCC2=CC=C3C=CC=NC3=C12 | C12H12N2
reactant | DDQ | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | THF | C1CCOC1 | C4H8O
product | (1-methyl-1-[(4R)-4-methyl-2-oxocyclohexyl]ethyl)-1,10-phenanthroline | CC(C)(C1C(C[C@@H](CC1)C)=O)C1=NC2=C3N=CC=CC3=CC=C2C=C1 | C22H24N2O
